US07053212B2
Step B: N-(4-Hydroxy-benzyl)-2,4,6-trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide, hydrochloride salt
2,4,6-Trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide was dissolved in methanol (30 mL) and 1N HCl (5 mL) was added. The reaction mixture was stirred for 30 minutes at room temperature and was concentrated in vacuo. The residue was triturated with methylene chloride followed by ether to obtain the title compound as the HCl salt. MS 495.4 (M+1)+

reactant | 2,4,6-Trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N(CC1=CC=C(C=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1 | C33H42N2O5S
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | N-(4-Hydroxy-benzyl)-2,4,6-trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide, hydrochloride salt | Cl.OC1=CC=C(CN(S(=O)(=O)C2=C(C=C(C=C2C)C)C)C2=CC=C(C=C2)OCCN2CCCC2)C=C1 | InChI=1S/C28H34N2O4S.ClH/c1-21-18-22(2)28(23(3)19-21)35(32,33)30(20-24-6-10-26(31)11-7-24)25-8-12-27(13-9-25)34-17-16-29-14-4-5-15-29;/h6-13,18-19,31H,4-5,14-17,20H2,1-3H3;1H
